US04478837
6-Benzoyl-3-(2-butylidenehydrazino)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A suspension of 13.5 g of 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 100 cc of methylethyl ketone is heated at reflux while stirring for 4 hours. The title compound has a M.P. of 191°-193°, from 95% ethanol.

reactant | 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 13.5 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C14H15N5O
solvent | methylethyl ketone | 100 cc | CC(=O)CC | C4H8O
product | 6-Benzoyl-3-(2-butylidenehydrazino)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN=CCCC)CC1 | C18H21N5O
